US06319920B1
A solution of dimethylsulfoxide (39 ml, 0.55 mole) in dichloromethane (300 ml) was added slowly to a solution of oxalyl chloride (22.7 ml, 0.264 mole) in dichloromethane (700 ml) at −60° C. After 10 minutes a solution of 1-methanesulfonylpiperidine-4-methanol (46 grams. 0.238 mole) in dichloromethane (500 ml) was added slowly. After 30 minutes at −60° C., triethylamine (167 ml) was added. The mixture was concentrated under reduced pressure and the residue was partitioned between ethyl acetate (1.2 liters) and water (200 ml). The organic phase was dried (anhydrous magnesium sulfate) and concentrated under reduced pressure. The residue was recrystallized from ethyl acetate/hexane to give 1-methanesulfonylpiperidine-4-carboxaldehyde (34 grams), m.p. 97° C.

reactant | dimethylsulfoxide | 0.55 mole, 39 ml | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 0.264 mole, 22.7 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-methanesulfonylpiperidine-4-methanol | 0.238 mole, 46 grams | CS(=O)(=O)N1CCC(CC1)CO | C7H15NO3S
reactant | triethylamine | 167 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 700 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | 1-methanesulfonylpiperidine-4-carboxaldehyde | 34 grams | CS(=O)(=O)N1CCC(CC1)C=O | C7H13NO3S
